US04278747
1,1-diphenylhydrazine and N-ethylcarbazole-3-carbaldehyde were reacted in ethanol at room temperature to obtain N-ethylcarbazole-3-carbaldehyde diphenylhydrazone with melting point of 160.2°-160.5° C., and 60 parts of this hydrazone compound and 100 parts of a polyester (Vylon 200 by Toyobo Co., Ltd.) were dissolved in 450 parts of tetrahydrofuran to prepare a coating solution. Then selenium was vacuum evaporated on a 10 μm thick aluminum foil laminated on a 75 μm thick polyester film to form a charge generating layer with thickness of approximately 0.3 μm, and to this layer was applied the above-said coating solution by a film applicator and dried to form a 20 μm thick charge transporting layer. In this way, there was obtained a double-layer type electrophotographic plate.

reactant | 1,1-diphenylhydrazine | C1(=CC=CC=C1)N(N)C1=CC=CC=C1 | C12H12N2
reactant | N-ethylcarbazole-3-carbaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C15H13NO
solvent | ethanol | C(C)O | C2H6O
product | N-ethylcarbazole-3-carbaldehyde diphenylhydrazone | C1(=CC=CC=C1)N(N=CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)C1=CC=CC=C1 | C27H23N3
